US06506769B2
Synthesis of 2-(2,6-Dichlorophenylamino)-1,7-dimethyl-6-(2-morpholin-4-yl-2-oxoethyl)-1,8-dihydro-imidazo[4,5-h]isoquinoline-9-one
To a solution of 2-(2,6-dichlorophenylamino)-1,7-dimethyl-9-oxo-1,8-dihydro-imidazo[4,5-h]isoquinolin-6-yl acetic acid (prepared using Methods C and A) (1.0 g, 2.3 mmol) in DMF (7 mL) was added O-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium tetrafluoroborate (TBTU) (0.82 g, 2.6 mmol) and morpholine (0.24 mL, 2.8 mmol), and the mixture stirred 18 h at room temperature. Ice water was added, the precipitate collected, washed with water and dried to give the title compound, 0.97 g, 84%, mp>300° C.; MS (ES) 500, 502 (MH+).

reactant | 2-(2,6-dichlorophenylamino)-1,7-dimethyl-9-oxo-1,8-dihydro-imidazo[4,5-h]isoquinolin-6-yl acetic acid | ClC1=C(C(=CC=C1)Cl)NC=1N(C2=C(C=CC=3C(=C(NC(C23)=O)C)CC(=O)O)N1)C | C20H16Cl2N4O3
reactant | O-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium tetrafluoroborate | 2.6 mmol, 0.82 g | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | morpholine | 2.8 mmol, 0.24 mL | N1CCOCC1 | C4H9NO
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
product | 2-(2,6-Dichlorophenylamino)-1,7-dimethyl-6-(2-morpholin-4-yl-2-oxoethyl)-1,8-dihydro-imidazo[4,5-h]isoquinoline-9-one | ClC1=C(C(=CC=C1)Cl)NC=1N(C2=C(C=CC=3C(=C(NC(C23)=O)C)CC(=O)N2CCOCC2)N1)C | C24H23Cl2N5O3
